US07196100B2
Preparation of 3,3-Dimethyl-1,5-dioxa-spiro[5.5]undecan-9-ol
Combine 3,3-dimethyl-1,5-dioxa-spiro[5.5]undecan-9-one (Aldrich, 750 mg, 3.78 mmol) with polymer-supported borohydride (Aldrich, 3026 mg, 7.56 mmol) in methanol (30 mL). Shake by rotation the resulting mixture overnight. Filter the reaction mixture and concentrate the filtrate. Wash the residue with hydrochloric acid 0.1M and extract with EtOAc. Dry the organic layer over sodium sulfate, filter and concentrate.

reactant | 3,3-dimethyl-1,5-dioxa-spiro[5.5]undecan-9-one | 3.78 mmol, 750 mg | CC1(COC2(OC1)CCC(CC2)=O)C | C11H18O3
reactant | borohydride | 7.56 mmol, 3026 mg | [BH4-]
solvent | methanol | 30 mL | CO | CH4O
product | 3,3-Dimethyl-1,5-dioxa-spiro[5.5]undecan-9-ol | CC1(COC2(OC1)CCC(CC2)O)C | C11H20O3
